US07488740B2
8. 4-Hydroxy-2-methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]napthyridine-3-carboxylic acid methyl ester
A solution of 6-amino-3′-trifluoromethyl-[2,2′]bipyridinyl-5-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester (1-0.4 g, 27.3 mmol) in 50 mL dry THF is added in one portion to a mixture of potassium t-butoxide (7.36 g, 65.6 mmol) and methyl 4-methoxy-acetoacetate (8.77 g, 60.7 mmol) in dry THF (100 mL). The reaction is stirred overnight at room temperature. Water (30 mL) is added and the solution concentrated (˜30 mL). The resulting mixture is extracted with ether (2×50 mL). The aqueous portion is acidified with concentrated hydrochloric acid and extracted with CH2Cl2 (4×100 mL). The combined organic extracts are dried over Na2SO4 and the solvent removed under reduced pressure to yield the title compound as a light brown oil that solidifies upon standing.

reactant | 6-amino-3′-trifluoromethyl-[2,2′]bipyridinyl-5-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester | 27.3 mmol, 1-0.4 g | O=C1N(C(CC1)=O)OC(=O)C=1C=CC(=NC1N)C1=NC=CC=C1C(F)(F)F | C16H11F3N4O4
reactant | potassium t-butoxide | 65.6 mmol, 7.36 g | CC(C)([O-])C.[K+]
reactant | methyl 4-methoxy-acetoacetate | 60.7 mmol, 8.77 g | COCC(CC(=O)OC)=O | C6H10O4
reactant | Water | 30 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-2-methoxymethyl-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]napthyridine-3-carboxylic acid methyl ester | COC(=O)C=1C(=NC2=NC(=CC=C2C1O)C1=NC=CC=C1C(F)(F)F)COC | C18H14F3N3O4
